US05348944
To a solution of 3.22 g of 1-[N-benzyloxycarbonyl-(S)-alanyl]octahydroindole-2(S)-carboxylic acid, ethyl ester in 150 ml of methanol, add 20 ml of 2.5N sodium hydroxide and stir the mixture at room temperature for 18 hours. Concentrate the mixture under nitrogen, dilute the residue with ice-water and then make the mixture acidic with concentrated hydrochloric acid. Extract the aqueous solution with ethyl acetate and dry the organic phase over magnesium sulfate. Concentrate the organic phase and place it on a column of silica gel (500 g., 60-200 mesh). Elute with chloroform:glacial acetic acid 9:1 to give 1- [N-benzyloxycarbonyl-(S)-alanyl ]octahydroindole-2(S)-carboxylic acid, a white solid [α]D26 62.1° (ethanol), m.p. 58.60°.

reactant | 1-[N-benzyloxycarbonyl-(S)-alanyl]octahydroindole-2(S)-carboxylic acid, ethyl ester | 3.22 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N1[C@@H](CC2CCCCC12)C(=O)OCC | C22H30N2O5
reactant | sodium hydroxide | 2.5N, 20 ml | [OH-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 1- [N-benzyloxycarbonyl-(S)-alanyl ]octahydroindole-2(S)-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N1[C@@H](CC2CCCCC12)C(=O)O | C20H26N2O5
